US07381719B2
3-Bromo-4-(5-formyl-pyridin-2-yloxy)-benzamide
Combine 3-bromo-4-(5-formyl-pyridin-2-yloxy)-benzonitrile (1.60 g, 5.28 mmol) and potassium carbonate (365 mg, 2.64 mmol) in DMSO (40 mL). Cool the reaction mixture at 0° C. Add hydrogen peroxide (1.59 mL, 5.28 mmol) dropwise and let the reaction stir at room temperature for 2 h. Pour into water and triturate to a white solid with stirring. Filter the white solid and dry to give (852 mg, 82%) of the title compound.

reactant | 3-bromo-4-(5-formyl-pyridin-2-yloxy)-benzonitrile | 5.28 mmol, 1.60 g | BrC=1C=C(C#N)C=CC1OC1=NC=C(C=C1)C=O | C13H7BrN2O2
reactant | potassium carbonate | 2.64 mmol, 365 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 5.28 mmol, 1.59 mL | OO | H2O2
reactant | water | O | H2O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 3-Bromo-4-(5-formyl-pyridin-2-yloxy)-benzamide | 852 mg, 82% | BrC=1C=C(C(=O)N)C=CC1OC1=NC=C(C=C1)C=O | C13H9BrN2O3
